US06391865B1
Preparation of 4-[(ethylamino)carbonylamino]-2,6-dimethyl Benzoic Acid
The tri-hydrochloride salt of the product of Example 8, step 3 (2 g, 4.3 mmol) and 4-amino-2,6-dimethyl benzoic acid (710 mg, 4.3 mmol) (see preparation below) were subjected to the standard coupling conditions (EDC/HOBT/iPr2NEt). Purification via flash chromatography (2/1 hexanes/acetone, SiO2) gave 1.16 g (52%) of 8AA as a yellow foam.

reactant | 4-amino-2,6-dimethyl benzoic acid | 4.3 mmol, 710 mg | NC1=CC(=C(C(=O)O)C(=C1)C)C | C9H11NO2
reactant | EDC HOBT iPr2NEt | C(CCl)Cl.C=1C=CC2=C(C1)N=NN2O.CCN(C(C)C)C(C)C
product | 4-[(ethylamino)carbonylamino]-2,6-dimethyl Benzoic Acid | C(C)NC(=O)NC1=CC(=C(C(=O)O)C(=C1)C)C | C12H16N2O3
